US08877780B2
A mixture of 3,4-dichlorophenyl-acetic acid (0.31 g, 1.5 mmol) and CDI (0.26 g, 1.6 mmol) in DMF (20 mL) was stirred at 70° C. under N2. After 4 h, 3-(5-(aminomethyl)-1-oxoisoindolin-2-yl)piperidine-2,6-dione hydrochloride (0.47 g, 1.5 mmol) was added. The mixture was cooled to 40° C. and was stirred at this temperature for an additional 16 h. Water (30 mL) was added resulting in precipitation of the product. The solid precipitate was filtered, washed with water (50 mL) and dried in vacuo providing 2-(3,4-dichloro-phenyl)-N-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-acetamide as a yellow solid (0.24 g, 34% yield); mp 191-193° C.; HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 ml/min, 240 nm, 40/60 CH3CN/0.1% H3PO4. 4.17 (98.19%); 1H NMR (DMSO-d6) δ 1.98-2.02 (m, 1H), 2.32-2.45 (m, 1H), 2.57-2.73 (m, 1H), 2.86-2.98 (m, 1H), 3.54 (s, 2H), 4.45-5.14 (m, 4H), 5.11 (dd, 1H, J=13.2, J=5.1), 7.24 (dd, 1H, J=8.4, J=6.3), 7.29-7.47 (m, 2H), 7.48-7.59 (m, 2H), 7.67 (d, 1H, J=7.8), 8.72 (t, 1H, J=5.7), 10.99 (s, 1H); 13C NMR (DMSO-d6) δ 22.5, 31.2, 41.0, 42.3, 47.1, 51.6, 122.1, 123.0, 127.1, 129.1, 129.5, 130.3, 130.4, 130.6, 131.1, 137.3, 142.3, 143.6, 168.0, 169.4, 170.9, 172.8; LCMS: MH=461, 463; Anal. Calcd for C22H19Cl2N3O4+0.5H2O: C, 56.30; H, 4.30; N, 8.95. Found: C, 56.19; H, 3.91; N, 8.56.

reactant | 3,4-dichlorophenyl-acetic acid | 1.5 mmol, 0.31 g | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | CDI | 1.6 mmol, 0.26 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 3-(5-(aminomethyl)-1-oxoisoindolin-2-yl)piperidine-2,6-dione hydrochloride | 1.5 mmol, 0.47 g | Cl.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | Water | 30 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(3,4-dichloro-phenyl)-N-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-acetamide | 0.24 g, 34% yield | ClC=1C=C(C=CC1Cl)CC(=O)NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O | C22H19Cl2N3O4
